US04061861
Preparation of 7-[α-(2,3-Dihydro-2-oxo-1H-benzimidazol-1-ylcarbonylamino)phenylacetamido]-3-acetoxymethyl-3-cephem-4-carboxylic acid.
To 15 ml. of dry acetonitrile were added 883 mg. (2 mmoles) of 7-(α-aminophenylacetamido)-3-acetoxymethyl-3-cephem-4-carboxylic acid dihydrate. The mixture was cooled, and 3.13 grams (14.4 mmoles) of N,O-bis-trimethylsilylacetamide were added. Solution was complete within two minutes. The resulting mixture then was stirred at room temperature, and 452 mg. (2.3 mmoles) of 2,3-dihydro-2-oxo-1H-benzimidazol-1-ylcarbonyl chloride were added, the temperature of the mixture rising from 25° C. to 28° C. Analysis of a sample of the reaction mixture after 30 minutes by thin-layer chromatography (TLC) indicated that reaction was complete. After two hours, the reaction mixture was slowly dropped into rapidly stirred ice water, the pH of the resulting suspension being 1.9. The pH was adjusted to 1.7 by addition of hydrochloric acid. The mixture was filtered, and the solid which was collected was washed with dilute hydrochloric acid and air-dried to give 1.16 grams of the title compound as a buff-colored powder.

reactant | 7-(α-aminophenylacetamido)-3-acetoxymethyl-3-cephem-4-carboxylic acid dihydrate | 2 mmoles | O.O.NC(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O)C1=CC=CC=C1
reactant | 2,3-dihydro-2-oxo-1H-benzimidazol-1-ylcarbonyl chloride | 2.3 mmoles | O=C1NC2=C(N1C(=O)Cl)C=CC=C2 | C8H5ClN2O2
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | C(C)#N | C2H3N
product | 7-[α-(2,3-Dihydro-2-oxo-1H-benzimidazol-1-ylcarbonylamino)phenylacetamido]-3-acetoxymethyl-3-cephem-4-carboxylic acid | 1.16 grams | O=C1NC2=C(N1C(=O)NC(C(=O)NC1[C@@H]3N(C(=C(CS3)COC(C)=O)C(=O)O)C1=O)C1=CC=CC=C1)C=CC=C2 | C26H23N5O8S
